US07411072B2
5-(4-Fluoro-3-methoxy-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Following procedures essentially as described in Example 28 and using 4-fluoro-3-methoxybenzaldehyde (1.59 g, 10.3 mmol), dibenzosuberane (1.94 g, 10 mmol, provides 1.66 g of title compound in 49% yield as a light tan oil that slowly crystallized. HPLC shows 93% purity.

reactant | 4-fluoro-3-methoxybenzaldehyde | 10.3 mmol, 1.59 g | FC1=C(C=C(C=O)C=C1)OC | C8H7FO2
reactant | dibenzosuberane | C1CC2=CC=CC=C2CC3=CC=CC=C31 | C15H14
product | 5-(4-Fluoro-3-methoxy-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 1.66 g, 49% yield | FC1=C(C=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=C1)OC | C23H19FO
